US07348449B2
Synthesis of 4-{3-[5-(4-Dimethylaminophenyl)-8,8-dimethyl-7,8-dihydro-2-naphthyl]-3-hydroxyprop-1-ynyl}benzoic acid
In a manner similar to that of Example 16b, by reacting 0.81 g (2.4 mmol) of 1-[5-(4-dimethylaminophenyl)-8,8-dimethyl-7,8-dihydro-2-naphthyl]prop-2-yn-1-ol with 0.496 g (2 mmol) of 4-iodobenzoic acid, 0.035 g (0.05 mmol) of trans-dichlorobis(triphenylphosphine)palladium and 0.019 g (b.1 mmol) of copper iodide, a beige-colored solid is obtained (0.65 g; yield=72%; m.p.=91° C.).

reactant | 1-[5-(4-dimethylaminophenyl)-8,8-dimethyl-7,8-dihydro-2-naphthyl]prop-2-yn-1-ol | 2.4 mmol, 0.81 g | CN(C1=CC=C(C=C1)C=1C=2C=CC(=CC2C(CC1)(C)C)C(C#C)O)C | C23H25NO
reactant | 4-iodobenzoic acid | 2 mmol, 0.496 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.05 mmol, 0.035 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 1 mmol, 0.019 g | [Cu](I)I
product | 4-{3-[5-(4-Dimethylaminophenyl)-8,8-dimethyl-7,8-dihydro-2-naphthyl]-3-hydroxyprop-1-ynyl}benzoic acid | CN(C1=CC=C(C=C1)C=1C=2C=CC(=CC2C(CC1)(C)C)C(C#CC1=CC=C(C(=O)O)C=C1)O)C | C30H29NO3
